US09212348B2
Synthesis of 2-methyl-1-(4-(trifluoromethyl)phenyl)propan-2-amine
25.4 g of 1-(2-azido-2-methylpropyl)-4-(trifluoromethyl)benzene was dissolved in 210 mL of ethyl acetate and mixed with 0.84 g of 20 wt % palladium hydroxide carbon. The atmosphere in the reaction vessel was replaced with hydrogen gas, and the reaction solution was stirred at room temperature for 18 hours. After completion of the reaction, the palladium hydroxide carbon was filtered off, and the filtrate was mixed with 3 M hydrochloric acid and separated. The aqueous layer was basified with 5 M sodium hydroxide and extracted with methylene chloride. The organic layer was concentrated under reduced pressure to give 4.27 g of the desired product as a brown liquid.

reactant | 1-(2-azido-2-methylpropyl)-4-(trifluoromethyl)benzene | 25.4 g | N(=[N+]=[N-])C(CC1=CC=C(C=C1)C(F)(F)F)(C)C | C11H12F3N3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 210 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide carbon | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | 2-methyl-1-(4-(trifluoromethyl)phenyl)propan-2-amine | 4.27 g | CC(CC1=CC=C(C=C1)C(F)(F)F)(C)N | C11H14F3N
